US08623889B2
To a mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (116.6 mg, 0.4005 mmol) and potassium (1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl)trifluoroborate (215 mg, 0.787 mmol) was added acetonitrile (3 mL, 60 mmol) and water (0.3 mL, 20 mmol). Potassium carbonate (173.6 mg, 1.256 mmol) and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (13.4 mg, 0.0189 mmol) were added and the reaction was stirred in a sealed vial at 90° C. for two hours. The reaction mixture was then poured into ethyl acetate, which was washed with two portions water, dried with brine and MgSO4, filtered, and evaporated in vacuo. The resulting residue was dissolved in 1,2-dichloroethane (3 mL, 40 mmol), and trifluoroacetic acid (0.30 mL, 3.9 mmol) was added. The mixture was stirred at room temperature for 15 hours, and then trifluoroacetic acid (1.0 mL) was added and the mixture was stirred at 40° C. for 4 hours. The reaction mixture was evaporated in vacuo, dissolved in dichloromethane and washed once with saturated aqueous NaHCO3. The organic portion was dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 17.4 mg (16%) of N-(7-(1H-pyrrol-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=4.073, M+H=278.0, method=E; 1H NMR (400 MHz, DMSO-d6) δ 11.49 (s, 1H), 10.81 (s, 1H), 9.02 (s, 1H), 8.39 (s, 1H), 8.17 (s, 1H), 7.99 (d, J=8.7 Hz, 1H), 7.82 (d, J=8.7 Hz, 1H), 6.93 (s, 1H), 6.67 (s, 1H), 6.17 (s, 1H), 2.15-1.99 (m, 1H), 0.84 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.4005 mmol, 116.6 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | potassium (1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl)trifluoroborate | 0.787 mmol, 215 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)[B-](F)(F)F.[K+]
reactant | acetonitrile | 60 mmol, 3 mL | C(C)#N | C2H3N
reactant | water | 20 mmol, 0.3 mL | O | H2O
reactant | Potassium carbonate | 1.256 mmol, 173.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dichloroethane | 40 mmol, 3 mL | ClCCCl | C2H4Cl2
reactant | trifluoroacetic acid | 3.9 mmol, 0.30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0189 mmol, 13.4 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(7-(1H-pyrrol-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 17.4 mg, 16% | N1C(=CC=C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C17H15N3O
